US07968573B2
To a solution of 2.95 g of 1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde in 20 ml of N,N-dimethylformamide was added 2.66 g of N-bromosuccinimide. The resulting mixture was stirred at room temperature for 10 hours. Water was poured into the reaction mixture, and a deposited precipitate was collected by filtration to obtain 1.2 g of 4-bromo-1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 2.95 g | ClC=1C=NC=CC1N1C(=CC=C1)C=O | C10H7ClN2O
reactant | N-bromosuccinimide | 2.66 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-bromo-1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 1.2 g | BrC=1C=C(N(C1)C1=C(C=NC=C1)Cl)C=O | C10H6BrClN2O
